US04172141
To a mixture of 1.00 g of 1-[2-(2-naphthyl)-2-hydroxyethyl]imidazole, 0.81 g of p-chlorophenol and 0.92 g of diethyl azodicarboxylate in 20 ml. of dry tetrahydrofuran at room temperature was added 1.65 g of triphenylphosphine (with stirring). The resulting yellow solution was stirred overnight, the solvent evaporated and the residual oil dissolved in ether. The hydrochloride salt of the product was precipitated as a gum by dropwise addition of ethereal hydrogen chloride, and crystallized from ethyl acetate to give 1[2-(2-naphthyl)-2-(4-chlorophenoxy)ethyl]imidazole hydrochloride.

reactant | 1-[2-(2-naphthyl)-2-hydroxyethyl]imidazole | 1.00 g | C1=C(C=CC2=CC=CC=C12)C(CN1C=NC=C1)O | C15H14N2O
reactant | p-chlorophenol | 0.81 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | diethyl azodicarboxylate | 0.92 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 1.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1[2-(2-naphthyl)-2-(4-chlorophenoxy)ethyl]imidazole hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)C(CN1C=NC=C1)OC1=CC=C(C=C1)Cl | InChI=1S/C21H17ClN2O.ClH/c22-19-7-9-20(10-8-19)25-21(14-24-12-11-23-15-24)18-6-5-16-3-1-2-4-17(16)13-18;/h1-13,15,21H,14H2;1H
